US06528504B2
(R)-5-[1-(4-chlorophenethyl)piperidine-2-ylmethyl]-5,11-dihydrodibenzo [b,e][1,4]oxazepine Hydrochloride
1.5 ml of 4 M hydrochloric acid/ethyl acetate was added to a solution of (R)-5-[1-(4-chlorophenethyl)piperidine-2-ylmethyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine (160 mg) in dichloromethane (5 ml), and they were stirred for 2 hours. The solvent was evaporated under reduced pressure. The title compound was obtained in the form of a white solid (155 mg, 87%).

reactant | hydrochloric acid ethyl acetate | 4 M, 1.5 ml | Cl.C(C)(=O)OCC
reactant | (R)-5-[1-(4-chlorophenethyl)piperidine-2-ylmethyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine | 160 mg | ClC1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C27H29ClN2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-5-[1-(4-chlorophenethyl)piperidine-2-ylmethyl]-5,11-dihydrodibenzo [b,e][1,4]oxazepine Hydrochloride | Cl.ClC1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C27H29ClN2O.ClH/c28-23-14-12-21(13-15-23)16-18-29-17-6-5-8-24(29)19-30-25-9-2-1-7-22(25)20-31-27-11-4-3-10-26(27)30;/h1-4,7,9-15,24H,5-6,8,16-20H2;1H/t24-;/m1./s1
